US07268230B2
3-(3-Benzyloxypropyl)imidazolidine-2,4-dione (1.3 g, 5.26 mmol) was dissolved in methanol (15 ml) and the system purged with nitrogen. 10% Palladium on carbon (130 mg, 10% by mass) and a few drops of glacial acetic acid were added and the mixture stirred under a hydrogen atmosphere (1 atmosphere) for 3 days. The mixture was filtered and concentrated under reduced pressure. The residue was purified by column chromatography eluting with methylene chloride/methanol (98/2 to 95/5) to give 3-(3-hydroxypropyl)imidazolidine-2,4-dione (606 mg, 73%) as a viscous oil which crystallised on standing.

reactant | 3-(3-Benzyloxypropyl)imidazolidine-2,4-dione | 5.26 mmol, 1.3 g | C(C1=CC=CC=C1)OCCCN1C(NCC1=O)=O | C13H16N2O3
solvent | methanol | 15 ml | CO | CH4O
product | 3-(3-hydroxypropyl)imidazolidine-2,4-dione | 606 mg, 73% | OCCCN1C(NCC1=O)=O | C6H10N2O3
